US05250527
5 N Sodium hydroxide (5.68 ml) was added dropwise to a stirred solution of 4 -morpholino-3 -chloro-2 -chloromethylpyridine hydrochloride (3.66 g) and 5 -methoxy-2 -mercaptobenzimidazole (2.33 g). After standing overnight the solution was evaporated under reduced pressure and the residue triturated with water. The solid thus obtained was recrystallised from ethanol to give 2 -(4 -morpholino-3 -chloro-2 -pyridyl-methylthio)-5 -methoxy-(1H)-benzimidazole, 4.38 g, m.p. 124°-25°.

reactant | Sodium hydroxide | 5 N, 5.68 ml | [OH-].[Na+]
reactant | 4 -morpholino-3 -chloro-2 -chloromethylpyridine hydrochloride | 3.66 g | Cl.O1CCN(CC1)C1=C(C(=NC=C1)CCl)Cl
reactant | 5 -methoxy-2 -mercaptobenzimidazole | 2.33 g | COC1=CC2=C(N=C(N2)S)C=C1 | C8H8N2OS
product | 2 -(4 -morpholino-3 -chloro-2 -pyridyl-methylthio)-5 -methoxy-(1H)-benzimidazole | O1CCN(CC1)C1=C(C(=NC=C1)CSC1=NC2=C(N1)C=CC(=C2)OC)Cl | C18H19ClN4O2S
